US04110450
Ethyl 3-(6-methoxypyridazin-3-yl)-2-methyl-3-oxopropionate is prepared by the fractional addition, over a period of 20 minutes, of sodium hydride (19.2 g) (50% in mineral oil) to a solution of methyl 6-methoxypyridazine-3-carboxylate (50 g) in ethyl propionate (220 g) at a temperature of about 98° C. The reaction mixture is maintained under reflux for a further 30 minutes. It is subsequently cooled to a temperature of about 20° C, and ethanol (10 cc) is added with care, followed by distilled water (800 cc). The aqueous phase is removed, washed by decantation with diisopropyl ether (3 × 250 cc), pure acetic acid (250 cc) is added (pH = 5-6) and the aqueous phase is washed again with ethyl acetate (3 × 150 cc). The organic phases are combined, dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure (30 mm Hg) to give ethyl 3-(6-methoxypyridazin-3-yl)-2-methyl-3-oxopropionate (37.2 g) in the form of a yellow oil.

reactant | sodium hydride | 19.2 g | [H-].[Na+]
reactant | methyl 6-methoxypyridazine-3-carboxylate | 50 g | COC1=CC=C(N=N1)C(=O)OC | C7H8N2O3
reactant | ethanol | 10 cc | C(C)O | C2H6O
reactant | ethyl propionate | 220 g | C(CC)(=O)OCC | C5H10O2
product | ethyl 3-(6-methoxypyridazin-3-yl)-2-methyl-3-oxopropionate | 37.2 g | COC1=CC=C(N=N1)C(C(C(=O)OCC)C)=O | C11H14N2O4
